### PR TITLE
feat: getElem lemmas for Vector operations

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds `GetElem` lemmas for the basic `Vector` operations.

The `Vector` API is still very sparse, but I'm hoping to infill rapidly.

### CODE REVIEW

File: src/Init/Data/Vector/Lemmas.lean [hunk 1]
```diff
@@ -253,6 +259,132 @@ theorem toList_inj {a b : Vector α n} (h : a.toList = b.toList) : a = b := by
...
+  rw [Array.swap_comm]
+
+/-! ### range -/
+
+@[simp] theorem getElem_range (i : Nat) (hi : i < n) : (Vector.range n)[i] = i := by
+  simp [Vector.range]
+
+/-! ### take -/
+
+@[simp] theorem getElem_take (a : Vector α n) (m : Nat) (hi : i < min n m) :
```
Comment (linesthatinterlace) [inline src/Init/Data/Vector/Lemmas.lean:369]: This should be `i < min m n` not `i < min n m`. The latter works, but because the size of `Vector.take v m` is `min m n`, using `i < min n m` makes it less useful in automation (because simp can't necessarily find the proof).
